US08859535B2
3-Methoxymethylene-9-thia-bicyclo[3.3.1]nonane
A solution of sodium bis(trimethylsilyl)amide 1M in THF (37.9 ml, 37.9 mmol) was added dropwise to a suspension of (methoxymethyl)triphenylphosphonium chloride (13.40 g, 37.9 mmol) in THF (60 ml) at −10° C., followed by the addition of 9-thia-bicyclo[3.3.1]nonan-3-one (3.95 g, 25.3 mmol) at −10° C. The suspension was allowed to warm to Rt and stirring was continued for 16 hrs.

reactant | sodium bis(trimethylsilyl)amide | 1M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | (methoxymethyl)triphenylphosphonium chloride | 37.9 mmol, 13.40 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 9-thia-bicyclo[3.3.1]nonan-3-one | 25.3 mmol, 3.95 g | C12CC(CC(CCC1)S2)=O | C8H12OS
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 37.9 mmol, 37.9 ml | C1CCOC1 | C4H8O
product | 3-Methoxymethylene-9-thia-bicyclo[3.3.1]nonane | COC=C1CC2CCCC(C1)S2 | C10H16OS
